US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(5-fluorobenzo[b]thiophen-2-yl)imidazolidin-2-one (22A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 100 mg, 0.4926 mmol) was reacted with 2-bromo-5-fluorobenzo[b]thiophene (125 mg, 0.5418 mmol), 1,4-dioxane (4 mL), copper iodide (9.3 mg, 0.0492 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (7.0 mg, 0.0492 mmol) and potassium phosphate (261 mg, 1.231 mmol) to afford the crude product. Purification by column chromatography on silica gel (0.5% methanol in CHCl3) afforded 85 mg of the product (49% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.4926 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 2-bromo-5-fluorobenzo[b]thiophene | 0.5418 mmol, 125 mg | BrC1=CC2=C(S1)C=CC(=C2)F | C8H4BrFS
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.0492 mmol, 7.0 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.231 mmol, 261 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.0492 mmol, 9.3 mg | [Cu](I)I
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(5-fluorobenzo[b]thiophen-2-yl)imidazolidin-2-one | 85 mg, 49% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=CC2=C(S1)C=CC(=C2)F)=O | C19H16FN3OS
